US06211242B1
To an ice bath cooled solution of 2-aminothiophenol (1.80 g) in N,N-dimethylformamide (35 ml) was added sodium hydride (60% in oil, 575 mg). After being stirred in an ice bath for 30 minutes, ethyl 6-bromohexanoate (3.21 g) was added and the mixture was stirred at ambient temperature for 3 hours. The mixture was diluted with ethyl acetate (100 ml) and the solution was washed with water and brine. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo to give an oil. The oil was purified by silica gel column (1% methanol in chloroform) to give 2-(5-ethoxycarbonylpent-1-yl)thioaniline (3.20 g) as a pale yellow amorphous.

reactant | 2-aminothiophenol | 1.80 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium hydride | 575 mg | [H-].[Na+]
reactant | ethyl 6-bromohexanoate | 3.21 g | BrCCCCCC(=O)OCC | C8H15BrO2
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-(5-ethoxycarbonylpent-1-yl)thioaniline | 3.20 g | C(C)OC(=O)CCCCCSC1=C(N)C=CC=C1 | C14H21NO2S
